US07666878B2
98b) [1-(4-Methanesulfinyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid
To a stirred solution of [1-(4-methanesulfinyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester (0.340 g, 0.95 mmol) in THF/MeOH (8 ml of a 1:1 mixture) is added 1M NaOH (2 ml) and the reaction mixture is stirred for 2 hours. The solvent is removed in vacuo and the resulting oil is dissolved in water and acidified to pH2 using concentrated HCl. A precipitate forms which is filtered, washed with water and dried in vacuo to yield the titled product. (MH+ 343)

reactant | [1-(4-methanesulfinyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | 0.95 mmol, 0.340 g | COC(CC1=C(N(C2=NC=CC=C21)CC2=CC=C(C=C2)S(=O)C)C)=O | C19H20N2O3S
reactant | NaOH | 1M, 2 ml | [OH-].[Na+]
solvent | THF MeOH | C1CCOC1.CO
product | [1-(4-Methanesulfinyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | CS(=O)C1=CC=C(CN2C(=C(C=3C2=NC=CC3)CC(=O)O)C)C=C1 | C18H18N2O3S
